US06414179B1
Methyl 2-[(4-tert-butoxycarbonylphenyl)methoxy]-3-(4-hydroxyphenyl)propionate
A solution of methyl 3-(4-tert-butyldimethylsilyloxyphenyl)-2-[(4-tert-butoxycarbonylphenyl)methoxy]propionate (310 mg, 0.61 mmol) in THF (5 ml) at −20° C. was treated with tetrabutylammonium fluoride-acetic acid (1.0M in THF, 0.76 ml, 0.76 mmol). The mixture was stirred at this temperature for 15 minutes, quenched with saturated aqueous sodium bicarbonate and extracted with diethyl ether. The organic phase was washed with brine, dried over sodium sulfate and concentrated in vacuo to give the title material (256 mg, 100%) as a pale yellow oil.

reactant | methyl 3-(4-tert-butyldimethylsilyloxyphenyl)-2-[(4-tert-butoxycarbonylphenyl)methoxy]propionate | 0.61 mmol, 310 mg | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC(C(=O)OC)OCC1=CC=C(C=C1)C(=O)OC(C)(C)C | C28H40O6Si
reactant | tetrabutylammonium fluoride acetic acid | 0.76 mmol, 1.0M, 0.76 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C(C)(=O)O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | Methyl 2-[(4-tert-butoxycarbonylphenyl)methoxy]-3-(4-hydroxyphenyl)propionate | 256 mg, 100% | C(C)(C)(C)OC(=O)C1=CC=C(C=C1)COC(C(=O)OC)CC1=CC=C(C=C1)O | C22H26O6
